US09029536B2
A) N-Methoxy-N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide
A suspension of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (10.05 g), N,O-dimethylhydroxylamine hydrochloride (4.35 g), WSC (9.32 g), HOBt (6.57 g), and TEA (6.21 ml) in DMF (80 ml) was stirred overnight at room temperature. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/AcOEt) and crystallized from hexane to give the title compound (7.60 g).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 10.05 g | CC1(OB(OC1(C)C)C1=CC=C(C(=O)O)C=C1)C | C13H17BO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.35 g | Cl.CNOC
reactant | WSC | 9.32 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 6.57 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-Methoxy-N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 7.60 g | CON(C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C15H22BNO4
